US07625950B2
To a solution of (2-methyl-4-{2-[4-(2-phenoxy-ethoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-yl)-methanol (200 mg, 0.56 mmol) and tetrazole (197 mg, 2.81 mmol, 5 eq., recrystallized from toluene) in dry THF (5 ml) was added di-tert-butyl-N,N-diisopropylphosphoramide (561 mg, 2.25 mmol, 4 eq.). After stirring under argon at RT for 3 h, H2O2 (30%, 10 eq.) was slowly added at 0° C. with vigorous stirring. The reaction mixture was stirred for further 30 min, followed by addition of saturated sodium thiosulfate solution (5 ml). The organic layer was separated and the aqueous phase was extracted with ether (3×20 ml). The combined organic extracts were washed with brine, dried over MgSO4, and evaporated to dryness. Purification by flash chromatography (AcOEt/hexane 1:1) afforded phosphoric acid di-tert-butyl ester 2-methyl-4-{2-[4-(2-phenoxy-ethoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-ylmethyl ester as colorles crystals. Finally, to a solution of phosphoric acid di-tert-butyl ester 2-methyl-4-{2-[4-(2-phenoxy-ethoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-ylmethyl ester (150 mg, 0.27 mmol) in ethanol (5 ml) was added conc. HCl (5 ml). The reaction mixture was stirred at 50° C. for 2 hours, then concentrated to dryness. The residue was re-dissolved in AcOEt and precipitated with hexanes. The solid was filtered off, washed with dry ether and dried in vacuo to afford mono-(2-amino-4-{4-[2-phenoxy-ethoxy]-phenyl}-2-ethoxy-butan) phosphate as a colorless powder. ESI+ MS: m/z=410.2 (M−H)+.

reactant | phosphoric acid di-tert-butyl ester 2-methyl-4-{2-[4-(2-phenoxy-ethoxy)-phenyl]-ethyl}-4,5-dihydro-oxazol-4-ylmethyl ester | 0.27 mmol, 150 mg | CC=1OCC(N1)(CCC1=CC=C(C=C1)OCCOC1=CC=CC=C1)COP(OC(C)(C)C)(OC(C)(C)C)=O | C29H42NO7P
reactant | HCl | 5 ml | Cl | ClH
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | mono-(2-amino-4-{4-[2-phenoxy-ethoxy]-phenyl}-2-ethoxy-butan) phosphate | P(=O)(O)(O)O.NC(C)(CCC1=CC=C(C=C1)OCCOC1=CC=CC=C1)OCC | InChI=1S/C20H27NO3.H3O4P/c1-3-24-20(2,21)14-13-17-9-11-19(12-10-17)23-16-15-22-18-7-5-4-6-8-18;1-5(2,3)4/h4-12H,3,13-16,21H2,1-2H3;(H3,1,2,3,4)
